US09260427B2
To a 10 ml flask were added (4-hydroxyphenyl)boronic acid (317.23 mg, 2.30 mmol), sodium carbonate decahydrate (138.0 mg, 2.3 mmol), tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoyl)-D-alaninate INT-32 (700.0 mg, 1.15 mmol), Pd(dppf)Cl2 (87.8 mg, 0.12 mmol), THF (10 mL), CH3CN (10 ml) and water (5 mL). The solution was degassed using N2 bubbling for 10 min. The reaction mixture was heated to 80° C. for 2 hours. The mixture was extracted with DCM (3×20 mL) and aqueous NaHCO3 (3×10 mL). The combined organics were dried over MgSO4 and evaporated. The final compound was purified by column chromatography (40% DCM in hexane) to afford 595.0 mg (83%) of tert-butyl ((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate INT-45 as solid. LCMS-ESI (m/z) calculated for C37H42N4O5: 622.3. found 623.3 [M+H]+, tR=3.635 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.79 (s, 1H), 9.11 (s, 2H), 8.50 (d, J=8.7 Hz, 1H), 8.41 (d, J=7.2 Hz, 1H), 8.30 (d, J=8.2 Hz, 2H), 7.75 (d, J=8.4 Hz, 2H), 7.68 (d, J=8.6 Hz, 2H), 7.51 (d, J=8.2 Hz, 2H), 7.46 (d, J=8.4 Hz, 2H), 6.92 (d, J=8.6 Hz, 2H), 4.85 (td, J=9.9, 4.6 Hz, 1H), 4.17 (p, J=7.1 Hz, 1H), 3.24-3.00 (m, 2H), 1.46-1.34 (m, 9H), 1.32-1.19 (m, 12H).

reactant | (4-hydroxyphenyl)boronic acid | 2.30 mmol, 317.23 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate decahydrate | 2.3 mmol, 138.0 mg | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl ((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoyl)-D-alaninate | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C31H37BrN4O4
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 87.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 5 mL | O | H2O
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | tert-butyl ((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 595.0 mg, 83% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)O)C=C1 | C37H42N4O5
